US06818772B2
cis-N-(2,8-bis(trifluoromethyl)quinolin-4-yl)-N′-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine
A solution of N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine (20 mg, 0.07 mmol) in N-methylpyrrolidine (0.5 mL) at 150° C. was treated with 4-chloro-2,8-bis(trifluoromethyl)quinoline (21 mg, 0.07 mmol), and triethylamine (10 μl, 0.07 mmol). The mixture was stirred at 150° C. for 18 hours then concentrated under reduced pressure. The compound was purified by reverse phase HPLC to provide the desired compound.

reactant | N-(7-chloroquinolin-4-yl)-cyclohexane-1,4-diamine | 0.07 mmol, 20 mg | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | 4-chloro-2,8-bis(trifluoromethyl)quinoline | 0.07 mmol, 21 mg | ClC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C11H4ClF6N
reactant | triethylamine | 0.07 mmol, 10 μl | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidine | 0.5 mL | CN1CCCC1 | C5H11N
product | cis-N-(2,8-bis(trifluoromethyl)quinolin-4-yl)-N′-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | FC(C1=NC2=C(C=CC=C2C(=C1)N[C@@H]1CC[C@@H](CC1)NC1=CC=NC2=CC(=CC=C12)Cl)C(F)(F)F)(F)F | C26H21ClF6N4
